US08217028B2
To a solution of ethyl (2E)-3-(7-cyano-5-fluoro-1H-indol-3-yl)-2-propenoate (D134) (4 g) in THF (100 mL) was added Pd/C (0.8 g, with 1% water). The reaction was stirred under H2 (50 psi) atmosphere at 50° C. for about 4 hrs, TLC showed the material was completely consumed. Then Pd/C was removed by filtration, the filtrate was concentrated and washed with PE to afford ethyl 3-(7-cyano-5-fluoro-1H-indol-3-yl)propanoate (D135) (2.57 g) as a white solid. δH (CDCl3, 400 MHz): 1.25 (3H, t), 2.67 (2H, t), 3.05 (2H, t), 4.14 (2H, q), 7.20 (1H, s), 7.25 (1H, dd), 7.52 (1H, dd), 8.64 (1H, br); MS (ES): C14H13FN2O2 requires 260; found 261.1 (M+H+).

reactant | ethyl (2E)-3-(7-cyano-5-fluoro-1H-indol-3-yl)-2-propenoate | 4 g | C(#N)C=1C=C(C=C2C(=CNC12)/C=C/C(=O)OCC)F | C14H11FN2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.8 g | [Pd] | Pd
product | ethyl 3-(7-cyano-5-fluoro-1H-indol-3-yl)propanoate | 2.57 g | C(#N)C=1C=C(C=C2C(=CNC12)CCC(=O)OCC)F | C14H13FN2O2
